US06943183B2
N-[(1R)-1-(Hydroxymethyl)propyl]-4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide (Compound 245)
Using the method in Example 172, 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid (50 mg, 0.10 mmol, 0.20M in DMF) and (R)-2-amino-1-butanol (45 mg, 0.50 mmol, 1.0M in DMF) were combined to give 53 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 570 [M+H]+.

reactant | 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid | 0.10 mmol, 0.20M, 50 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=CC=C(C(=O)O)C=C1 | C29H26N2O4S
reactant | (R)-2-amino-1-butanol | 0.50 mmol, 1.0M, 45 mg | N[C@@H](CO)CC | C4H11NO
product | N-[(1R)-1-(Hydroxymethyl)propyl]-4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide | 53 mg | OC[C@@H](CC)NC(C1=CC=C(C=C1)SCC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C33H35N3O4S
